* Tau-owned classic 555 timer (behavioral). Pins match NE555 order:
*   1=GND 2=TRIG 3=OUT 4=RESET 5=CONT 6=THRES 7=DISCH 8=VCC
* Honest limitations (not a vendor macromodel):
*   - Ideal rail-rail OUT; no totem-pole current limits or saturation drop.
*   - Discharge is an ideal voltage-controlled switch, not a real BJT.
*   - COMP/RESET thresholds are simplified; CONT defaults via 5k divider.
*   - No silicon timing parasitics / propagation delay tables.
.subckt tau_555 GND TRIG OUT RESET CONT THRES DISCH VCC
* Default CONT = 2/3 VCC (external drive overrides via Cont pin).
R_tau555_1 VCC CONT 5k
R_tau555_2 CONT N13 5k
R_tau555_3 N13 GND 5k
* Threshold comparator → async reset when THRES > CONT.
B_tau555_th TH_CMP GND V=(V(THRES,GND)>V(CONT,GND)) ? 1 : 0
* Trigger comparator → async set when TRIG < CONT/2 (= 1/3 VCC when Cont open).
B_tau555_tr TR_CMP GND V=(V(TRIG,GND)<0.5*V(CONT,GND)) ? 1 : 0
* Active-low RESET → force latch reset when RESET is below ~0.4·VCC.
B_tau555_rst RST_CMP GND V=(V(RESET,GND)<0.4*V(VCC,GND)) ? 1 : 0
.model tau555_adc adc_bridge(in_low=0.4 in_high=0.6)
* TR → set; TH|~RESET → reset; pad from ground → dig 0 for D/CLK.
A_tau555_adc [TR_CMP TH_CMP RST_CMP 0] [tau555_dset tau555_dr1 tau555_dr2 tau555_d0] tau555_adc
.model tau555_or d_or(rise_delay=1n fall_delay=1n)
A_tau555_or [tau555_dr1 tau555_dr2] tau555_dreset tau555_or
.model tau555_dff d_dff(ic=0 clk_delay=1n set_delay=1n reset_delay=1n rise_delay=1n fall_delay=1n)
A_tau555_ff tau555_d0 tau555_d0 tau555_dset tau555_dreset tau555_dq tau555_dnq tau555_dff
.model tau555_dac dac_bridge(out_low=0 out_high=1 t_rise=10n t_fall=10n)
A_tau555_dac [tau555_dq tau555_dnq] [tau555_q tau555_nq] tau555_dac
* Output buffer to supply rails (1 Ω series ≈ finite A-device drive).
B_tau555_out tau555_od GND V=V(GND)+V(tau555_q)*(V(VCC)-V(GND))
R_tau555_out tau555_od OUT 1
* Discharge on while latch is reset (Q low / NQ high).
B_tau555_swctl tau555_swctl GND V=(V(tau555_nq)>0.5) ? 1 : 0
S_tau555_disch DISCH GND tau555_swctl GND tau555_sw
.model tau555_sw sw(vt=0.5 vh=0.1 ron=1 roff=1e12)
.ends tau_555
